US06897309B2
Buspirone (8-[4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl]-8-azaspiro(4.5)-decane-7,9-dione) (246.5 g, 639.6 mmol) was charged to a 12 L flask equipped with a mechanical stirrer and a React-IR probe under inert gas. Tetrahydrofuran (4.383 kg, 60.8 mol, 4.930 L, 20 mL/g) was charged and the mixture agitated at ambient temperature until homogeneous. Triethyl phosphite (371.9 g, 2.238 mol, 383.8 mL, 3.5 eq) was added and the mixture was cooled to −68 to −75° C. The mixture was agitated at this temperature for at least 10 minutes to allow the React-IR signal to stabilize. 1.0 M Sodium bis(trimethylsilyl)amide in THF (600.4 g, 664.1 mmol, 664.1 mL, 1.00 eq) was charged to the mixture at such a rate so as to maintain the temperature less than −60° C. Small amounts of sodium bis(trimethylsilyl)amide were charged to the mixture until the IR signal for buspirone reached a minimum indicating complete deprotonation of buspirone. Additional buspirone in THF (10-20 mL/g) was then charged to the reaction mixture in small increments until the IR signal indicated a 0.5% to 5% excess of buspirone. Air was sparged into the reaction mixture, controlling the initial rate of sparging so as to maintain the temperature of the reaction mixture less than −60° C. The sparging was continued until the reaction was complete as indicated by HPLC. Methyl tert-butyl ether (384.8 g, 4.365 mol, 520.0 mL) was added followed by 1M hydrochloric acid (1350.8 g, 1.328 mmol, 1328 mL) and the solution was warmed to ambient temperature. The pH was adjusted to between 6.5 and 6.9 using hydrochloric acid and Na3PO4. The phases were separated and the organic phase was washed twice with brine (542.3 g, 493 mL). The solvent of the rich organic layer was then replaced by isopropyl alcohol and the solution was cooled to crystallize the reaction product. There is an option to seed with 0.01 to 5% buspirone at approximately 54 to 56° C. The crystalline slurry was then filtered and the wet cake was washed with isopropyl alcohol and dried to provide 6-hydroxybuspirone (220.0 g, 82%), mp 109.5° C.

reactant | Buspirone | 639.6 mmol, 246.5 g | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(CC2(CCCC2)CC1=O)=O | C21H31N5O2
reactant | Triethyl phosphite | 2.238 mol, 383.8 mL, 371.9 g, 3.5 eq | P(OCC)(OCC)OCC | C6H15O3P
reactant | Sodium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | buspirone | C=1C=NC(=NC1)N2CCN(CC2)CCCCN3C(=O)CC4(CCCC4)CC3=O | C21H31N5O2
reactant | Methyl tert-butyl ether | 4.365 mol, 520.0 mL, 384.8 g | C(C)(C)(C)OC | C5H12O
reactant | hydrochloric acid | 1.328 mmol, 1M, 1328 mL, 1350.8 g | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 664.1 mmol, 664.1 mL, 600.4 g, 1.00 eq | C1CCOC1 | C4H8O
solvent | Tetrahydrofuran | 60.8 mol, 4.930 L, 4.383 kg | O1CCCC1 | C4H8O
product | 6-hydroxybuspirone | 220.0 g, 82% | C=1C=NC(=NC1)N2CCN(CC2)CCCCN3C(=O)CC4(CCCC4)C(C3=O)O | C21H31N5O3
